US06451821B1
A solution of 1.4 g of N-[(1R)-2-hydroxy-1-(3-thienylmethyl)ethyl]acetamide in 17.6 cm3 of aqueous 6N hydrochloric acid is heated with stirring at a temperature in the region of 100° C. for 2 hours. The reaction mixture is then concentrated under reduced pressure (2 kPa) at a temperature in the region of 40° C. to give a greenish oil, which crystallizes from 60 cm3 of acetone. The crystals are filtered off on a sinter funnel, washed with acetone and then dried in an oven under vacuum (10 Pa) at a temperature in the region of 50° C. 0.92 g of (2R)-2-amino-3-(3-thienyl)-1-propanol hydrochloride is obtained in the form of an off-white solid. 1H NMR spectrum (400 MHz, (CD3)2SO-d6, δ in ppm): 2.93 (mt: 2H); from 3.25 to 3.50 (mt: 2H); 3.53 (broad d, J=11 Hz: 1H); 5.37 (unres. mult.: 1H); 7.07 (broad d, J=5 Hz: 1H); 7.35 (mt: 1H); 7.53 (dd, J=5 and 3 Hz: 1H>; 8.18 (unres. mult.: 3H)

reactant | N-[(1R)-2-hydroxy-1-(3-thienylmethyl)ethyl]acetamide | 1.4 g | OC[C@@H](CC1=CSC=C1)NC(C)=O | C9H13NO2S
reactant | hydrochloric acid | 6N | Cl | ClH
product | (2R)-2-amino-3-(3-thienyl)-1-propanol hydrochloride | 0.92 g | Cl.N[C@@H](CO)CC1=CSC=C1 | InChI=1S/C7H11NOS.ClH/c8-7(4-9)3-6-1-2-10-5-6;/h1-2,5,7,9H,3-4,8H2;1H/t7-;/m1./s1
